US05604229
5-Acetamido-5-(4-decylphenyl)-2,2-dimethyl-1,3-dioxane
2-Acetylamino-2-(4-decylphenyl )-1,3-propanediol (224 mg) and 2,2-dimethoxypropane (0.3 ml) were dissolved in benzene (5 ml) and the mixture was refluxed under heating in the presence of a catalytic amount of toluenesulfonic acid. After cooling, the reaction mixture was washed with an aqueous sodium hydrogencarbonate solution and dried over sodium sulfate. The solvent was distilled away and the residue was purified by preparative thin layer chromatography (silica gel) to give 99 mg of the amorphous subject compound.

reactant | 2-Acetylamino-2-(4-decylphenyl )-1,3-propanediol | 224 mg | C(C)(=O)NC(CO)(CO)C1=CC=C(C=C1)CCCCCCCCCC | C21H35NO3
reactant | 2,2-dimethoxypropane | 0.3 ml | COC(C)(C)OC | C5H12O2
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 5-Acetamido-5-(4-decylphenyl)-2,2-dimethyl-1,3-dioxane | 99 mg | C(C)(=O)NC1(COC(OC1)(C)C)C1=CC=C(C=C1)CCCCCCCCCC | C24H39NO3
